US04988686
2-formyl-1-diphenylmethyloxy-5-p-methoxybenzyloxy-4-pyridone
In 300 ml of anhydrous methanol is suspended 6 g of 2-hydroxymethyl-5-p-methoxybenzyloxy-4-pyridone, and 15 g of active manganese dioxide is added thereto. The reaction is performed under heating at a refluxing temperature for 30 minutes. At the end of the reaction, the manganese dioxide is removed by filtration, and the filtrate is condensed under reduced pressure. The residue is dissolved in 150 ml of ethyl acetate, washed with water, dried over anhydrous magnesium sulfate, and condensed under reduced pressure to give the title compound (5.63 g).

reactant | 2-hydroxymethyl-5-p-methoxybenzyloxy-4-pyridone | 6 g | OCC1=NC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H15NO4
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 300 ml | CO | CH4O
catalyst | manganese dioxide | 15 g | [O-2].[O-2].[Mn+4]
product | 2-formyl-1-diphenylmethyloxy-5-p-methoxybenzyloxy-4-pyridone | 5.63 g | C(=O)C=1N(C=C(C(C1)=O)OCC1=CC=C(C=C1)OC)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23NO5
